US07799805B2
(4-Chloro-3-hydroxymethyl-benzyl)-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester
TBAF (1M in THF, 9.57 mL, 9.57 mmol) was added dropwise to a sol. of [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester (2.15 g, 4.78 mmol) in THF (48 mL) at 0° C. The mixture was was stirred for 1 h while warming up to rt. The mixture was diluted with EtOAc, and the resulting mixture was washed with aq. sat. NH4Cl (2×) and brine (1×). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 30:70) yielded the title compound (591 mg, 37%). LC-MS: tR=0.97 min; ES+: 336.09.

reactant | TBAF | 9.57 mmol, 1M, 9.57 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 4.78 mmol, 2.15 g | C(C)(C)(C)OC(N(CC(F)F)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C21H34ClF2NO3Si
solvent | THF | 48 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Chloro-3-hydroxymethyl-benzyl)-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 591 mg, 37% | C(C)(C)(C)OC(N(CC(F)F)CC1=CC(=C(C=C1)Cl)CO)=O | C15H20ClF2NO3
